US06028195
1-[(2-Methoxyquinolin-3-yl)aminocarbonyl]-4-(3-chlorophenyl)piperazine
Phenyl N-(2-methoxyquinolin-3-yl)carbamate and 1-(3-chlorophenyl)piperazine were reacted by the same way with the example 81 to obtain the titled compound.

reactant | Phenyl N-(2-methoxyquinolin-3-yl)carbamate | COC1=NC2=CC=CC=C2C=C1NC(OC1=CC=CC=C1)=O | C17H14N2O3
reactant | 1-(3-chlorophenyl)piperazine | ClC=1C=C(C=CC1)N1CCNCC1 | C10H13ClN2
product | 1-[(2-Methoxyquinolin-3-yl)aminocarbonyl]-4-(3-chlorophenyl)piperazine | yield: 73% | COC1=NC2=CC=CC=C2C=C1NC(=O)N1CCN(CC1)C1=CC(=CC=C1)Cl | C21H21ClN4O2
